US07419984B2
4-[2-Amino-6-(5-chloro-2-methyl-phenyl)-pyrimidin4-ylamino]-benzonitrile
Following the method described in Example 26, 4-chloro-6-(5-chloro-2-methyl-phenyl)-pyrimidin-2-yl-amine and 4-amino-benzonitrile provided the title compound (71% yield). 1H NMR (DMSO-d6) δ 2.36 (s, 3H, CH3), 6.19 (s, 1H, Ar), 6.61 (s, 2H, NH2), 7.32 (d, 1H, J=8.2 Hz, Ar), 7.38 (dd, 1H, J=8.2 Hz, J=2.3 Hz, Ar), 7.43 (d, 1H, J-2.3 Hz, Ar), 7.72 (d, 2H, J=8.8 Hz, Ar), 8.00 (d, 2H, J=8.8 Hz, Ar), 9.73 (s, 1H, NH).

reactant | 4-chloro-6-(5-chloro-2-methyl-phenyl)-pyrimidin-2-yl-amine | ClC1=NC(=NC(=C1)C1=C(C=CC(=C1)Cl)C)N | C11H9Cl2N3
reactant | 4-amino-benzonitrile | NC1=CC=C(C#N)C=C1 | C7H6N2
product | 4-[2-Amino-6-(5-chloro-2-methyl-phenyl)-pyrimidin4-ylamino]-benzonitrile | 71% yield | NC1=NC(=CC(=N1)NC1=CC=C(C#N)C=C1)C1=C(C=CC(=C1)Cl)C | C18H14ClN5
